US04054719
Following the procedure of Example 1, 5 grams of 4-methylphenacyl bromide reacted with 5 grams of acetic acid to obtain 4-methylphenacyl acetate, m.p. 85°-85° C.

reactant | 4-methylphenacyl bromide | 5 grams | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | acetic acid | 5 grams | C(C)(=O)O | C2H4O2
product | 4-methylphenacyl acetate | C(C)(=O)OCC(=O)C1=CC=C(C=C1)C | C11H12O3
